US07153875B2
A mixture of 3-bromo-4,5-methylenedioxybenzaldehyde (2.51 g, 10.97 mmol), 2-methoxyphenylboronic acid (2.00 g, 13.16 mmol) and potassium carbonate (3.41 g, 24.68 mmol) in 1,2-dimethoxyethane (70 mL) and water (3.5 mL) was degassed with argon for 30 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.63 g, 0.548 mmol) was added and the mixture heated at reflux under argon overnight. The solution was cooled to room temperature, diluted with ethyl acetate (100 mL) and washed successively with water (50 mL) and brine (50 mL), dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified on silica gel (eluent: hexane:ether, 9:1) to give 0.910 g of 3-(2-methoxyphenyl)-4,5-methylenedioxybenzaldehyde (32%) as a white solid. 1H NMR (300 MHz; CDCl3): δ 3.84 (s, 3H); 6.07 (s, 2H); 7.00–7.10 (m, 2H); 7.31 (brs, 1H); 7.30–7.45 (m, 2H); 7.53 (brs, 1H); 9.83 (s, 1H).

reactant | 3-bromo-4,5-methylenedioxybenzaldehyde | 10.97 mmol, 2.51 g | BrC=1C=C(C=O)C=C2C1OCO2 | C8H5BrO3
reactant | 2-methoxyphenylboronic acid | 13.16 mmol, 2.00 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 24.68 mmol, 3.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 70 mL | COCCOC | C4H10O2
solvent | water | 3.5 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.548 mmol, 0.63 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-methoxyphenyl)-4,5-methylenedioxybenzaldehyde | 0.910 g, 32% | COC1=C(C=CC=C1)C=1C=C(C=O)C=C2C1OCO2 | C15H12O4
